Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain s/p ERCP   
 
Major Surgical or Invasive Procedure:
ERCP by GI

 
History of Present Illness:
___ year old with history of chronic RUQ abdominal pain believed 
to be secondary to biliary dyskinesia who is now s/p lap chole 
with normal intraoperative cholangiogram and MRI abdomen with 
mild CBD dilatation.  In addition, she has a history of 
spontaneous PE on Coumadin.  She presented ___ with 
intermittent RUQ abdominal pain and underwent EUS and ERCP.  EUS 
was unremarkable with the exception of sludge in the CBD with 
mild dilatation to 7mm.  Pt then underwent an uncomplicated ERCP 
with sphincterotomy and sweep with scant sludge.  Post-procedure 
she was noted to have ___ RUQ abdominal pain associated with 
nausea and vomiting.  She received IV fluids overnight, and was 
treated supportively.  Her abdominal pain was noted to have 
improved the following day, and her diet was able to be 
advanced.  She was discharged with a 5 day course of 
Ciprofloxacin for post-procedure prophylaxis.  In addition, she 
was restarted on her home Coumadin with lovenox bridge 
post-procedure.  Her Coumadin had been held in preparation for 
ERCP.        

In the ED, initial VS were 96.8 82 115/60 18 100% RA.
Labs demonstrated WBC 8.2, H/H 11.4/35, plts 191, ALT 92, AST 
151, AP 88, tbili 0.8, lipase 34, alb 3.4, Na 142, K 3.6, CO2 
21, BUN/Cr ___.
UA with trace ketones. 
CXR did not demonstrate free air under the diaphragm.
RUQ U/S demonstrated a CBD of 5mm with no CBD stones.  
CT abd/pelvis demonstrated mild intrahepatic biliary duct 
dilation centrally with a small layering right sided pleural 
effusion.

Pt received 1L NS, Dilaudid 0.5mg IV x 3, Prochloperazine 10mg 
IV, Zofran 4mg IV, Lovenox 80mg SC 

ERCP was consulted in the ED and recommended admission to 
medicine for pain management.

Transfer VS were 98.2 55 98/58 16 95% RA    
  
On arrival to the floor, patient was acutely distressed and 
moaning in pain. She describes the pain as having stared an hour 
ago. It is sharp and radiates down the R side towards her back. 
It is not worse with movement and comes in waves. Her interval 
periods last several hours. She had a pain of similar intensity 
when she had a blood clot. She has also been vomiting 
green/brown bilious emesis 6x today. She denies diarrhea. She 
cannot tolerate POs. She endorses chills and SOB (her breathing 
is limited by pain). She had not taken ___ warfarin for 7 days. 

REVIEW OF SYSTEMS: Negative except as above
 
Past Medical History:
# hypothyroidism
# spontaneous Pulmonary embolism (on Coumadin)
 - no prior hypercoagulable w/u.  No FH of clots
# IBS
 - colonoscopy ___: tortuous colon with mult adhesions 
# Clostridium difficile colitis
# h/o Elbow fracture
# Arthritis
# Ovarian cyst
# Peritonitis
# s/p Appy 
# s/p CCY
# s/p TAH 

 
Social History:
___
Family History:
No FH of biliary disease or hypercoagulable conditions.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS 98 136/70 60 20 99%RA
WT: 88kg 5'3
GENERAL: Writing in bed, moaning, acutely distressed. Appears 
younger than stated age.  
HEENT: AT/NC
NECK: nontender supple neck  
CARDIAC: Unable to eval given pt moaning   
LUNG: CTAB, exam limited by patient moaning 
ABDOMEN: nondistended, diffusely tender with increased 
epigastric pain radiating around R side. + Rebound. 
BACK: Tender at R CVA. L CVA nontender.   
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose   
NEURO: A&Ox3 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:
VS 97.8  126/57  64  18  95% on ra
GENERAL: Appears ill but no longer writhing. Appears younger 
than stated age.  
HEENT: AT/NC
NECK: nontender supple neck  
CARDIAC: RRR no MRG  
LUNG: CTAB
ABDOMEN: mildly distended, diffusely tender with increased 
epigastric pain radiating around R side.  + ___ sign. 
BACK: Tender at R CVA/flank. L CVA/flank nontender.   
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose   
NEURO: A&Ox3 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
Labs on admission:

___ 05:10AM BLOOD WBC-8.5 RBC-3.94 Hgb-11.8 Hct-36.1 MCV-92 
MCH-29.9 MCHC-32.7 RDW-12.6 RDWSD-42.4 Plt ___
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD Glucose-86 UreaN-11 Creat-0.6 Na-141 
K-4.5 Cl-107 HCO3-26 AnGap-13
___ 06:25AM BLOOD ALT-92* AST-151* AlkPhos-88 TotBili-0.8
___ 06:25AM BLOOD Lipase-34
___ 05:10AM BLOOD Calcium-8.6 Phos-3.3 Mg-1.8

Labs on discharge: 
___ 07:01AM BLOOD WBC-6.7 RBC-4.33 Hgb-13.0 Hct-38.9 MCV-90 
MCH-30.0 MCHC-33.4 RDW-13.3 RDWSD-43.6 Plt ___
___ 07:01AM BLOOD Plt ___
___ 06:55AM BLOOD Glucose-80 UreaN-4* Creat-0.6 Na-138 
K-4.0 Cl-102 HCO3-23 AnGap-17
___ 07:01AM BLOOD ALT-92* AST-30 AlkPhos-98 TotBili-0.6
___ 07:01AM BLOOD Lipase-42
___ 06:55AM BLOOD Calcium-9.0 Phos-4.0 Mg-1.___ y/o F s/p CCY for RUQ abd pain w/ hx of spontaneous PE on 
Coumadin (bridged, last lovenox last night) who underwent ERCP 
on ___ for recurrent abd pain, fluctuating LFT's, and MRI 
showing mild biliary dilation no presents with severe abdominal 
pain. 

# Cholangitis/Ecoli Bacteremia: Patient presented with abdominal 
pain after ERCP and grew Ecoli in her blood. She received IV 
antibiotics and was discharged with a PICC Line for Ceftriaxone 
of 14 day total course. 

# Post-ERCP abdominal pain: Patient woke up from ERCP with 
abdominal pain that has been intermittent since then but severe. 
She is s/p cholecystectomy in ___. Her imaging showed no 
evidence of obstruction or bowel edema, reassuring for lack of 
mesenteric ischemia. She had a repeat ERCP that showed two small 
clots that may have contributed to her cholangitis. 

# Elevated transaminases: Likely due to manipulation s/p MRCP. 
However, given notable increase of LFTs on day after admission, 
concern for cholangitic picture. The LFTs downtrended 
subsequently during her admission. 

#Hypothyroidism: Continued on home levothyroxine. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Claritin (loratadine) 10 mg oral DAILY 
3. FiberCon (calcium polycarbophil) 2 Capsules oral QID 
4. Ursodiol 300 mg PO TID 
5. Warfarin 10 mg PO EVERY OTHER DAY 
6. Warfarin 12 mg PO EVERY OTHER DAY 
7. Acetaminophen 325-650 mg PO Q6H:PRN pain fever 
8. Ciprofloxacin HCl 500 mg PO Q12H 
9. Ondansetron 4 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain fever 
2. Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
3. Ursodiol 300 mg PO TID 
4. Ondansetron 4 mg PO Q8H:PRN nausea 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Claritin (loratadine) 10 mg oral DAILY 
7. FiberCon (calcium polycarbophil) 2 Capsules oral QID 
8. CeftriaXONE 2 gm IV Q24H Duration: 9 Days 
End on ___ 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 50mL IV Every 24 
hours Disp #*450 Intravenous Bag Refills:*0
9. OxycoDONE (Immediate Release)  5 mg PO Q3H:PRN Pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 3 hours as needed 
Disp #*45 Tablet Refills:*0
10. Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush 
RX *sodium chloride 0.9 % 0.9 % 10 mL IV daily and prn Disp #*30 
Syringe Refills:*0
11. Outpatient Lab Work
Please draw ___ on ___.
ICD 10: I 48.9 atrial fibrillation
Please fax results to Dr. ___ ___.
12. Work Excuse
Please excuse Ms. ___ from work from 
___. She was hospitalized at ___ during this 
time. She can return to work on ___ without restrictions. 
Please contact ___ with any questions.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses: 
ascending Cholangitis, Ecoli Bacteremia.
Secondary Diagnoses: hypothyroidism, unprovoked pulmonary 
embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after you presented with 
abdominal pain after ERCP on ___. You were diagnosed with an 
infection of your common bile duct (cholangitis) and started on 
antibiotics. You also had bacteria (Ecoli) in your blood from 
your cholangitis. Because of this, we placed a PICC line in 
order to continue to administer IV antibiotics for you. This 
will continue for another 9 days after you get discharged. 

The ERCP that was performed, where they found 2 small blood 
clots, which likely predisposed you to the infection in 
combination with the recent ERCP instrumentation. At the time of 
discharge, you were tolerating your oral intake well, and had 
your abdominal pain under control. 

You will need to follow-up with the ERCP team for stent removal. 


It was a pleasure to care for you during this hospitalization.

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___